US08835595B2
DL-alanine-copolymerized N-MXD12,6 (polyamide compound 315, MXDA unit/dodecanedioic acid unit/DL-alanine unit/ε-caprolactam unit=39.3/39.4/4.4/16.9 (% by mol)) was produced in the same manner as in Example 301 except that adipic acid was changed to dodecanedioic acid (produced by Ube Industries, Ltd.).

reactant | DL-alanine | NC(C)C(=O)O | C3H7NO2
reactant | MXDA | C1=CC(=CC(=C1)CN)CN | C8H12N2
reactant | dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
reactant | ε-caprolactam | C1(CCCCCN1)=O | C6H11NO
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
